US06114352
After addition of 1.87 g of triethylamine (18.5 mmol) to a mixture of 3.2 g of 7-nitro-3-acetoxy-4-hydroxy-1-methyl-2(1H)-quinolinone (11.5 mmol) in 64 ml of THF, 1.89 g of chloromethyl methyl ether (23.0 mmol) was dropped to the mixture, and stirred at room temperature for 1 hour. Filtration of the reaction mixture, the filtrate was concentrated under reduced pressure to give 3.6 g of 7-nitro-3-acetoxy-4-methoxymethoxy-1-methyl-2(1H)-quinolinone. In accordance with EXAMPLE 4, the obtained 7-nitro-3-acetoxy-4-methoxymethoxy-1-methyl-2(1H)-quinolinone was used instead of 7-nitro-3-acetoxy-4-hydroxy-1-methyl-2(1H)-quinolinone, 7-nitro-3-hydroxy-4-methoxymethoxy-1-methyl-2(1H)-quinolinone was provided. Then in accordance with EXAMPLE 2, 7-nitro-3-methoxy-4-methoxymethoxy-1-methyl-2(1H)-quinolinone was given by methylation reaction. Finally, to a mixture of the obtained 7-nitro-3-methoxy-4-methoxymethoxy-1-methyl-2(1H)-quinolinone in 40 ml of methanol was added 0.22 g of p-toluenesulfonic acid monohydrate and stirred at room temperature for 1 hour. To the reaction mixture was added water, extracted with ethyl acetate and the organic layer was concentrated under reduced pressure. The residue was crystallized from THF and hexane to yield 1.45 g of the title compound (18). (yield=54%)

reactant | triethylamine | 18.5 mmol, 1.87 g | C(C)N(CC)CC | C6H15N
reactant | 7-nitro-3-acetoxy-4-hydroxy-1-methyl-2(1H)-quinolinone | 11.5 mmol, 3.2 g | [N+](=O)([O-])C1=CC=C2C(=C(C(N(C2=C1)C)=O)OC(C)=O)O | C12H10N2O6
reactant | chloromethyl methyl ether | 23.0 mmol, 1.89 g | COCCl | C2H5ClO
solvent | THF | 64 ml | C1CCOC1 | C4H8O
product | 7-nitro-3-acetoxy-4-methoxymethoxy-1-methyl-2(1H)-quinolinone | 3.6 g | [N+](=O)([O-])C1=CC=C2C(=C(C(N(C2=C1)C)=O)OC(C)=O)OCOC | C14H14N2O7
